US04838925
Methyl 2-((2,4-dimethylpyrrolo[1,2-b]pyridazin-7-ylcarbonyl)aminosulfonyl)benzoate
To a solution of 0.40 g (2.7 mmol) of 2,4-dimethylpyrrolo[1,2-b]pyridazine in 15 mL of dichloromethane at -78° C. was added, by syringe pump over a period 70 min, a solution of 0.62 g (2.7 mmol) of methyl 2-(isocyanatosulfonyl)benzoate. The reaction mixture was allowed to warm to room temperature. The residue was purified by flash chromatography to give 0.12 g of a white solid, m.p. 200°-202° C.

reactant | 2,4-dimethylpyrrolo[1,2-b]pyridazine | 2.7 mmol, 0.40 g | CC=1C=C(C=2N(N1)C=CC2)C | C9H10N2
reactant | methyl 2-(isocyanatosulfonyl)benzoate | 2.7 mmol, 0.62 g | N(=C=O)S(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C9H7NO5S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | Methyl 2-((2,4-dimethylpyrrolo[1,2-b]pyridazin-7-ylcarbonyl)aminosulfonyl)benzoate | 0.12 g | CC=1C=C(C=2N(N1)C(=CC2)C(=O)NS(=O)(=O)C2=C(C(=O)OC)C=CC=C2)C | C18H17N3O5S
